US08420631B2
Use a method similar to the General Procedure 3 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (425 mg, 1 mmol) with N-but-3-ynyl-2,2-dimethyl-propionamide (306 mg, 2 mmol) in DMF (10 mL). Purify by chromatography on silica gel eluting with cyclohexane/EtOAc (85:15 to 0:100 gradient) to obtain 7-chloro-6-[4-(2,2-dimethyl-propionylamino)-but-1-ynyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (437 mg, 99%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1 mmol, 425 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | N-but-3-ynyl-2,2-dimethyl-propionamide | 2 mmol, 306 mg | C(CC#C)NC(C(C)(C)C)=O | C9H15NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 7-chloro-6-[4-(2,2-dimethyl-propionylamino)-but-1-ynyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 437 mg, 99% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C#CCCNC(C(C)(C)C)=O | C21H24ClF3N2O2
